US08258322B2
Synthesis of 1-methoxy-4-(1-hydroxy-1-methyl-ethyl)-1,4-cyclohexadiene (second example of step #1)
2-(4-methoxy-phenyl)-propan-2-ol (750 g, 4.5 mol), anhydrous THF (7.5 L) and tert-BuOH (2001.4 g, 27 mol) were added under argon to a 22 L round bottomed flask equipped with an overhead stirrer, thermometer and dropping funnel. The mixture was cooled to −30° C. Gaseous ammonia was bubbled through the reaction mixture for 30 min. Granulated lithium (125 g, 18 mol) was added portion wise to the solution during 1-1.5 hr. The stirring was continued with slow flow of ammonia for 20 rh. The reaction was quenched with a solution of 961 g NH4Cl in 2.7 L water at −20° C. The top layer was separated and evaporated on a rotary evaporator at a bath temperature of 30° C. (all these and subsequent operations are performed under inert atmosphere). The aqueous layer was extracted with MTBE (3×1 L). The concentrate and extract were combined, washed with water and brine, dried over Na2SO4 and evaporated to dryness at a bath temperature of 35° C. The crude oily product was mixed with 725 ml Hexane and filtered. The filtrate was placed in a freezer at −70° C. and left for 24 hr. The solid was decanted and rinsed with Hexane pre-cooled to −70° C. (2×100 mL) with decantation after each rinsing. After drying under vacuum at 20° C., 562 g of the target product was obtained (yield 74%), having an HPLC purity of 89%.

reactant | 2-(4-methoxy-phenyl)-propan-2-ol | 4.5 mol, 750 g | COC1=CC=C(C=C1)C(C)(C)O | C10H14O2
reactant | tert-BuOH | 27 mol, 2001.4 g | C(C)(C)(C)O | C4H10O
reactant | lithium | 18 mol, 125 g | [Li] | Li
reactant | ammonia | N | H3N
solvent | THF | 7.5 L | C1CCOC1 | C4H8O
product | 1-methoxy-4-(1-hydroxy-1-methyl-ethyl)-1,4-cyclohexadiene | 562 g, yield 74% | COC1=CCC(=CC1)C(C)(C)O | C10H16O2
